US04111923
(m) Nα -Benzyloxycarbonyl-L-glutaminyl-L-tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucyl-L-arginyl-L-proline N-ethylamide
A solution of 100 mg. of Nα -benzyloxycarbonyl-L-glutaminyl-L-tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucyl-L-arginyl-L-proline N-ethylamide, hydrochloride in a minimal amount of water, 40 to 50 ml., is put on a column of Dowex 1×2 (acetate form) 1.2×37 cm. The material is then eluted with water (150 ml.) and the fractions lyophilized and the Nα -benzyloxycarbonyl-L-glutaminyl-L-tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucyl-L-arginyl-L-proline N-ethylamide acetic acid salt examined by ultraviolet in methanol (λmax 280 E11 56.3) and for chloride. Analysis indicates an acetate salt with 2 CH3COOH and 5 H2O in the molecular formula.

reactant | Nα -benzyloxycarbonyl-L-glutaminyl-L-tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucyl-L-arginyl-L-proline N-ethylamide, hydrochloride | Cl.C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CCC(N)=O)=O)CC1=CNC2=CC=CC=C12)=O)CO)=O)CC1=CC=C(C=C1)O)=O)C)=O)CC(C)C)=O)CCCNC(N)=N)=O)=O
reactant | acetate | C(C)(=O)[O-]
solvent | water | O | H2O
product | Nα -Benzyloxycarbonyl-L-glutaminyl-L-tryptophyl-L-seryl-L-tyrosyl-D-alanyl-L-leucyl-L-arginyl-L-proline N-ethylamide | C(C)NC([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CCC(N)=O)=O)CC1=CNC2=CC=CC=C12)=O)CO)=O)CC1=CC=C(C=C1)O)=O)C)=O)CC(C)C)=O)CCCNC(N)=N)=O)=O | C58H80N14O13
